US08030499B2
Step 245-1: Synthesis of 5-chloro-3-hydroxy-3-(2-methoxy-3-methylphenyl)-1,3-dihydro-2H-indol-2-one
Under nitrogen atmosphere, to a solution of 6.00 g of NaH in THF (130 ml) was added 12.4 g of 5-chloroisatin and the reaction mixture was stirred for one hour. The solution prepared beforehand was added dropwise over 10 minutes at the same temperature. A saturated aqueous solution of NH4Cl was added, the solution was extracted with EtOAc; the organic layer was washed with saturated brine and dried over Na2SO4, then, the drying agent was separated by filtration and the solvent was evaporated under reduced pressure. The obtained residue was purified by column chromatography (silicagel 60N; mobile phase: CHCl3/MeOH=100/1 to 20/1; v/v), the obtained solid was further washed by stirring in EtOAc (30 ml), then, the solid was collected by filtration to obtain 2.45 g of the title compound.

reactant | NaH | 6.00 g | [H-].[Na+]
reactant | 5-chloroisatin | 12.4 g | ClC=1C=C2C(C(NC2=CC1)=O)=O | C8H4ClNO2
reactant | NH4Cl | [NH4+].[Cl-]
reactant | THF | 130 ml | C1CCOC1 | C4H8O
product | 5-chloro-3-hydroxy-3-(2-methoxy-3-methylphenyl)-1,3-dihydro-2H-indol-2-one | 2.45 g | ClC=1C=C2C(C(NC2=CC1)=O)(C1=C(C(=CC=C1)C)OC)O | C16H14ClNO3
